US07741323B2
3-(3-Benzyloxyphenyl)-3-oxopropionate ethyl ester (174.42 g, 584.47 mmol) was dissolved in m-xylene and the reaction mixture was refluxed while stirring for 30 min at 150° C. Then, isopropylamine (38 g, 642.92 mmol) was added dropwise to the mixture. After stirring and refluxing for 24 hours at room temperature, the organic layer was extracted with saturated sodium chloride and ethyl acetate, dried over anhydrous magnesium sulfate, concentrated, and resulting residue was purified by column chromatography (ethyl acetate:hexane=1:2) to obtain 2-(3-benzyloxybenzoyl)-N-isopropyl-3-phenylacryl amide (127.13 g, yield 70%) as yellow oil.

reactant | 3-(3-Benzyloxyphenyl)-3-oxopropionate ethyl ester | 584.47 mmol, 174.42 g | C(C)OC(CC(=O)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C18H18O4
reactant | isopropylamine | 642.92 mmol, 38 g | C(C)(C)N | C3H9N
solvent | m-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | 2-(3-benzyloxybenzoyl)-N-isopropyl-3-phenylacryl amide | 127.13 g, yield 70% | C(C1=CC=CC=C1)OC=1C=C(C(=O)C(C(=O)NC(C)C)=CC2=CC=CC=C2)C=CC1 | C26H25NO3
